Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-1.99253997873
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15].[H:1],3.64719152767
[C:3]#[C:4][C:5]([O:6][H:7])[O:8][H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[O:8][H:9],-7.494249679139999
[O:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],0.6883427834100001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],4.17184876913
[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.41178658994
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.00328731134
[H:8].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.98466386988
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.583446040209999
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-7.24454240233
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12],-3.94962298363
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5]#[C:6]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-5.52123042398
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.559704097719999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]#[C:11][H:12].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-3.98481355561
[O:1]=[C:2]=[C:3]([H:4])[C:8]([H:9])([H:10])[H:11].[O:5]=[C:6][H:7]>>[O:1]=[C:2][C@:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],1.61309576136
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.44652886309
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-4.31864400704
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],1.2841149435
[C:3]#[C:4][O:5][C:6]#[C:7][H:8].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]#[C:7][H:8],-8.1873495009
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-8.50773895
[C:4]([H:5])([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.16332800643
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:8])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:7][C:9]([H:10])([H:11])[H:15],5.59720379197
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-1.48955877901
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],1.42056888888
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-6.09565454777
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.09242554915
[H:1]/[C:2](=[C:3]\[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.62574710675
